US06559145B2
Diethyl 2-(((2-(Morpholin-4-ylmethyl)-1,3-thiazol-5-yl)amino)methylene)malonate [BM.5]
To a solution of 2-(morpholin-4-ylmethyl)-1,3-thiazol-5-amine (Preparation 27, 1.13 g) in pyridine (10 mL) at 45° C. is added diethyl ethoxymethylenemalonate (2.26 mL). The mixture is stirred overnight, diluted with water (100 mL), and extracted with EtOAc (3×75 mL). The organic layer is dried (MgSO4) and the solvent removed. The residue is purified by column chromatography (eluent 50% EtOAc/hexane) to afford 1.51 g (86%) of the title compound as a brown oil. Physical characteristics: 1H NMR (CDCl3) δ 1.27-1.37, 2.58, 3.72, 3.73, 4.20-4.30, 8.10, 11.02; IR (diffuse reflectance) 1687, 1637, 1596, 1416, 1337, 1301, 1274, 1268, 1243, 1234, 1114, 1094, 1011, 867, 801 cm−1; HRMS (FAB) m/z 370.1420 (C16H23N3O5S+H). Anal. Found: C, 51.80; H, 6.32; N, 11.26.

reactant | 2-(morpholin-4-ylmethyl)-1,3-thiazol-5-amine | 1.13 g | N1(CCOCC1)CC=1SC(=CN1)N | C8H13N3OS
reactant | diethyl ethoxymethylenemalonate | 2.26 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | Diethyl 2-(((2-(Morpholin-4-ylmethyl)-1,3-thiazol-5-yl)amino)methylene)malonate | 1.51 g, 86% | N1(CCOCC1)CC=1SC(=CN1)NC=C(C(=O)OCC)C(=O)OCC | C16H23N3O5S
